US07220768B2
(4-Hydroxymethylphenyl)carbamic acid tert-butyl ester
A solution of 4-aminobenzyl alcohol (1.0 g) in dioxane (5 mL)/water (5 mL)/1N sodium hydroxide (8 mL) at 0° C. is treated with di-tert-butyl dicarbonate (2.65 g) in one portion. The mixture is warmed up to room temperature and stirred for 6 hours at ambient temperature. Most of the dioxane is removed under reduced pressure. The aqueous concentrate is then extracted twice with ethyl acetate and the combined organic extract is washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, concentrated under reduced pressure and pumped under high vacuum to give 1.8 g product as a white solid. MS: m/z 224 (M+H)+.

reactant | 4-aminobenzyl alcohol | 1.0 g | NC1=CC=C(CO)C=C1 | C7H9NO
reactant | water | 5 mL | O | H2O
reactant | sodium hydroxide | 1N, 8 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 2.65 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (4-Hydroxymethylphenyl)carbamic acid tert-butyl ester | 1.8 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)CO)=O | C12H17NO3
